US04225335
Preparation of N-(4,5-Dimethyl-1,3-dioxolan-2-ylmethyl)-2-ethoxy-α-chloroacetanilide
N-(4,5-Dimethyl-1,3-dioxolan-2-ylmethyl)-2-ethoxyaniline (5.41 ml; 0.022 mole), diethyl ether (30 ml), sodium carbonate (4.66 grams) and water (50 ml) were charged into a glass reaction vessel equipped with stirrer, thermometer and cooling means. The mixture was cooled to a temperature of 4° to 6° C. and chloroacetyl chloride (2.71 ml) was slowly added with stirring. After the addition was completed stirring was continued for a period of 1 hour. After this time the organic phase was separated from the aqueous phase and filtered. The filtrate was then washed with aqueous sodium carbonate and thereafter dried over anhydrous magnesium sulfate. The dried solution was filtered and stripped of solvent under reduced pressure to yield the desired product N-(4,5-dimethyl-1,3-dioxolan-2-ylmethyl)-2-ethoxy-α-chloroacetanilide as a white solid having a melt point of 43.0° C.

reactant | N-(4,5-Dimethyl-1,3-dioxolan-2-ylmethyl)-2-ethoxyaniline | 0.022 mole, 5.41 ml | CC1OC(OC1C)CNC1=C(C=CC=C1)OCC | C14H21NO3
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
reactant | sodium carbonate | 4.66 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroacetyl chloride | 2.71 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 50 ml | O | H2O
product | N-(4,5-dimethyl-1,3-dioxolan-2-ylmethyl)-2-ethoxy-α-chloroacetanilide | CC1OC(OC1C)CN(C1=CC=CC=C1)C(C(Cl)OCC)=O | C16H22ClNO4
